data/oMe_Silver.jsonl
{"reaction_id": "NR-131_1-C(C)(C)C_2-C#N_3-C(=O)C_4-OC(C)(C)C","level": "medium","name": "Lemieux-Johnson Oxidation","reactants_smiles": ["C(C(C)(C)C)(C#N)=C(C(=O)C)(OC(C)(C)C)"],"products_smiles": ["C(C(C)(C)C)(C#N)=O","C(C(=O)C)(OC(C)(C)C)=O"],"conditions": "O=[Os](=O)(=O)=O, [Na+].[O-][I+3](=O)=O","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(C(C)(C)C)(C#N)O[Os](=O)(=O)OC1(C(=O)C)OC(C)(C)C","step_weight": 0,"rationale": "The electron-rich alkene π-bond reacts with electrophilic OsO4 in a concerted [3+2] cycloaddition, favored by strong osmium–oxygen electrophilicity and minimal steric hindrance, forming a stable cyclic osmate ester."},{"step": 2,"type": "pericyclic","subtype": "cycloreversion","intermediate_smiles": "C(O)(C(C)(C)C)(C#N)C(O)(C(=O)C)OC(C)(C)C","step_weight": 0,"rationale": "Hydrolysis of the osmate ester occurs because osmium–oxygen bonds are labile in aqueous conditions, producing a vicinal diol stabilized by hydrogen bonding and relief of ring strain."},{"step": 3,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C1(C(C)(C)C)(C#N)O[I](=O)(=O)(O)OC1(C(=O)C)OC(C)(C)C","step_weight": 0,"rationale": "Periodate acts as an electrophile toward the diol, forming a cyclic periodate ester driven by favorable overlap of oxygen lone pairs with iodine’s empty orbitals and the release of water."},{"step": 4,"type": "pericyclic","subtype": "cycloreversion","intermediate_smiles": "C(C(C)(C)C)(C#N)=O.C(C(=O)C)(OC(C)(C)C)=O","step_weight": 0,"rationale": "The cyclic periodate ester undergoes C–C bond cleavage via cycloreversion, favored by the formation of two stable carbonyl groups and relief of ring strain in the intermediate."}],"description": "The alkene undergoes osmium tetroxide-mediated syn-dihydroxylation via a [3+2] cycloaddition, followed by oxidative cleavage with periodate. The cyclic osmate ester and periodate ester intermediates facilitate C–C bond cleavage, yielding two carbonyl compounds under mild oxidative conditions."}
{"reaction_id": "NR-149_1-C_2-CCCC(C)C","name": "Myers Asymmetric Alkylation","level": "medium","reactants_smiles": ["CCC(=O)N(C)C(C)C(O)c1ccccc1","BrCCCC(C)C"],"products_smiles": ["CCCC(C)CC(C)C(=O)N(C)C(C)C(O)c1ccccc1"],"conditions": "LDA","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C/C=C(\\[O-])/N(C)C(C)C([O-])c1ccccc1","rationale": "LDA, a strong non-nucleophilic base, selectively deprotonates the α-position due to acidity enhanced by resonance stabilization of the enolate through the carbonyl and auxiliary."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "CCCC(C)CC(C)C(=O)N(C)C(C)C([O-])c1ccccc1","rationale": "The enolate acts as a strong nucleophile, attacking the electrophilic carbon of the alkyl bromide in an SN2 process, favored by the good leaving ability of bromide and minimal steric hindrance."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CCCC(C)CC(C)C(=O)N(C)C(C)C(O)c1ccccc1","rationale": "The alkoxide intermediate is protonated under workup conditions, restoring the neutral alcohol and completing the formation of the alkylated product."}],"description": "Under strong base (LDA), the Myers auxiliary amide undergoes deprotonation to form a stabilized enolate, which then performs an SN2 alkylation with the alkyl bromide. Final protonation yields the chiral alkylated product with high stereocontrol from the auxiliary."}
